US04769464
1,8-octanedial
When the formation of the acetal is complete, the solution is neutralized under cold conditions and diluted with water. In the course of this, 1,1,8,8-tetramethoxyoctane separates out as a water-insoluble oil; it is separated off and the remaining solution is extracted with petroleum ether. The product phases are combined, freed from petroleum ether and fractionated in vacuo. This gives 322 g of 1,1,8,8-tetramethoxyoctane boiling at 147°-149° C./30, corresponding to 91.7% of theory.

reactant | 1,1,8,8-tetramethoxyoctane | COC(CCCCCCC(OC)OC)OC | C12H26O4
solvent | water | O | H2O
product | 1,8-octanedial | C(CCCCCCC=O)=O | C8H14O2
